US04435404
1.0 Gram of 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]-2-propenyloxy}carbostyril was dissolved in 50 ml of methanol and 0.1 g of 5% palladiumcarbon was added. The mixture was catalytically hydrogenated at a room temperature under an atmospheric pressure for 5 hours. After the reaction was completed, the catalyst was removed by filtration and the filtrate was concentrated by distillation under a reduced pressure to dryness. The residue thus obtained was recrystallized from chloroform-petroleum ether. 0.8 Gram of 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril was obtained as in the form of colorless needle-like crystals. Melting point: 165°-166° C.

reactant | 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]-2-propenyloxy}carbostyril | OCCN(C(=O)C=CCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C21H26N2O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladiumcarbon | 0.1 g | [C].[Pd]
product | 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril | OCCN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C21H28N2O4
